US06552017B1
To a solution of diethyl 5-bromo-2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate (100 mg, 0.22 mmol) in DMF (10 mL) was added 2,4-dichlorophenyl boronic acid (63 mg, 0.33 mmol) and Na2CO3 (58 mg, 0.55 mmol, in 0.4 mL of H2O). The mixture was degassed with a stream of nitrogen for 20 min and then there was added Pd(PPh3)4 (35 mg, 0.03 mmol) and the mixture was stirred at 100° C. for 16 h. The reaction was allowed to cool to ambient temperature and was diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate and brine, dried (MgSO4), filtered through Celite and concentrated in vacuo. The residue was purified by flash chromatography (elution with hexanes/ethyl acetate) to afford diethyl 5-(2,4-dichlorophenyl)-2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate (30 mg, 29% yield) MS [M+H]+517.

reactant | diethyl 5-bromo-2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate | 0.22 mmol, 100 mg | BrC=1C=C2C=3N(CC(N(C3C1)C(=O)OCC)C)C1C2CN(CC1)C(=O)OCC | C20H26BrN3O4
reactant | 2,4-dichlorophenyl boronic acid | 0.33 mmol, 63 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 0.55 mmol, 0.4 mL, 58 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | diethyl 5-(2,4-dichlorophenyl)-2-methyl-6b,9,10,10a-tetrahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-3,8(2H,7H)-dicarboxylate | 30 mg, 29% yield | ClC1=C(C=CC(=C1)Cl)C=1C=C2C=3N(CC(N(C3C1)C(=O)OCC)C)C1C2CN(CC1)C(=O)OCC | C26H29Cl2N3O4
